US08012981B2
N-(3-Fluorophenyl)-4-piperidinamine hydrochloride (D4a)
3-Fluoroaniline (28.38 ml, 0.296 mol) was added to a solution of 4-oxo-1-piperidine carboxylate (60 g, 0.302 mol) in 1,2-DCE (600 ml) and the mixture stirred for 15 minutes. Sodium tri(acetoxy)borohydride (83 g, 0.392 mol) was added gradually over 5 minutes and the mixture stirred for 5.5 h, then poured into a mixture of 2M HCl (100 ml), water (200 ml) and ice (1 l). The phases were separated and the aqueous phase extracted with DCM (200 ml). The combined organic phases were dried over MgSO4 and concentrated to give a pale yellow solid which was dissolved in MeOH (400 ml) and treated with 2M HCl (100 ml). The resulting solution was stirred at 60° C. overnight. 5M HCl (100 ml) was added and heating continued for a further 7 h. The reaction mixture was concentrated in vacuo to give a yellow oily solid. This was re-crystallized from MeOH/EtOAc to give two batches of the title compound (42.6 g & 17.0 g). These batches were then re-crystallized from IMS/EtOAc and the resulting batches were dried in vacuo at 50° C. to give the title compound (49.0 g total). δH (CD3OD, 250 MHz) 7.54 (1H, q), 7.24 (2H, m), 7.15 (1H, t), 3.89 (1H, m), 3.54 (2H, d), 3.11 (2H, t), 2.24 (2H, d), 2.01 (2H, m).

reactant | 3-Fluoroaniline | 0.296 mol, 28.38 ml | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 4-oxo-1-piperidine carboxylate | 0.302 mol, 60 g | O=C1CCN(CC1)C(=O)[O-]
reactant | Sodium tri(acetoxy)borohydride | 0.392 mol, 83 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 2M, 100 ml | Cl | ClH
reactant | HCl | 2M, 100 ml | Cl | ClH
reactant | HCl | 5M, 100 ml | Cl | ClH
solvent | 1,2-DCE | 600 ml | ClCCCl | C2H4Cl2
solvent | MeOH | 400 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | N-(3-Fluorophenyl)-4-piperidinamine hydrochloride | 42.6 g | Cl.FC=1C=C(C=CC1)NC1CCNCC1 | InChI=1S/C11H15FN2.ClH/c12-9-2-1-3-11(8-9)14-10-4-6-13-7-5-10;/h1-3,8,10,13-14H,4-7H2;1H
